US08440705B2
Preparation of N-[3-(2-Oxo-1,2,3,4-tetrahydro-benzo[h]quinolin-4-yl)-phenyl]-acetamide
A mixture of 4-(3-Amino-phenyl)-3,4-dihydro-1H-benzo[h]quinolin-2-one (0.25 g, 0.87 mmol), acetic anhydride (1 ml) and anhydrous pyridine (1 ml) was stirred at ambient temperature overnight. Water was added and the precipitate was separated by filtration. Crystallization from methanol-acetonitrile afforded the title compound (0.06 g, 0.18 mmol).

reactant | 4-(3-Amino-phenyl)-3,4-dihydro-1H-benzo[h]quinolin-2-one | 0.87 mmol, 0.25 g | NC=1C=C(C=CC1)C1CC(NC2=C3C(=CC=C12)C=CC=C3)=O | C19H16N2O
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | N-[3-(2-Oxo-1,2,3,4-tetrahydro-benzo[h]quinolin-4-yl)-phenyl]-acetamide | 0.18 mmol, 0.06 g | O=C1NC2=C3C(=CC=C2C(C1)C=1C=C(C=CC1)NC(C)=O)C=CC=C3 | C21H18N2O2
